US04358620
To a mixture of 9-formyl-9,10-dihydro-9,10-methanoanthracene (110 mg) and β-carboxyethyltriphenylphosphonium chloride (186 mg) in dimethylsufoxide (2 ml) and tetrahydrofuran (2 ml) was added 65.4% sodium hydride dispersion in mineral oil (37 mg) at 0° C. under nitrogen. The reaction mixture was stirred at 0° C. for 6 hours, diluted with water, acidified with hydrochloric acid and extracted with benzene. The benzene extract was shaken with 2 N aqueous sodium hydroxide. The basic layer was acidified with hydrochloric acid and extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to give γ-(9,10-dihydro-9,10-methano-9-anthryl)-β-butenoic acid. M.P. 166°-167° C.

reactant | 9-formyl-9,10-dihydro-9,10-methanoanthracene | 110 mg | C(=O)C12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C16H12O
reactant | β-carboxyethyltriphenylphosphonium chloride | 186 mg | [Cl-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | γ-(9,10-dihydro-9,10-methano-9-anthryl)-β-butenoic acid | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)C=CCC(=O)O | C19H16O2
